US05624939
A The reaction is carried out in a way similar to that described in Example 1A but starting from 0.54 g of tert-butyl (2RS,5SR)-1-{2-[3-(3-(benzyloxycarbonyl)phenyl)ureido]acetyl}-2-methyl-5-phenyl-pyrrolidine-2-carboxylate and 0.15 g of 10% palladium-on-charcoal in 30 cm3 of ethyl acetate. After treatment, there is obtained 0.25 g of (2RS,5SR)-3-3-2-(2-tert-butoxycarbonyl-2-methyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoic acid melting at 150° C.

reactant | tert-butyl (2RS,5SR)-1-{2-[3-(3-(benzyloxycarbonyl)phenyl)ureido]acetyl}-2-methyl-5-phenyl-pyrrolidine-2-carboxylate | 0.54 g | C(C1=CC=CC=C1)OC(=O)C=1C=C(C=CC1)NC(NCC(=O)N1C(CCC1C1=CC=CC=C1)(C(=O)OC(C)(C)C)C)=O | C33H37N3O6
solvent | ethyl acetate | 30 cm3 | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 0.15 g | [Pd] | Pd
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
